US09102591B2
2,3-Dichloro-N-[1-(6-cyclopropyl-pyridin-3-yl)-4,4-difluoro-cyclohexylmethyl]-benzamide
From 2,3-dichlorobenzoic acid and C-[4,4-difluoro-1-(6-cyclopropyl-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=439.0, tR (minutes, Method E)=0.55

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | C-[4,4-difluoro-1-(6-cyclopropyl-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C1CC1)CN)F | C15H20F2N2
product | 2,3-Dichloro-N-[1-(6-cyclopropyl-pyridin-3-yl)-4,4-difluoro-cyclohexylmethyl]-benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C2CC2)C=CC=C1Cl | C22H22Cl2F2N2O
